US05624937
4-(4-nitrophenylthio)quinoline (17.0 mmoles, 4.9 g) was dissolved in 200 ml ethanol and hydrogenated over 5 g of 5% Pd/C at 40 psi for 1 hr at room temperature. The solution was filtered through celite and the solvent removed to yield 4-(4-aminophenylthio)quinoline 2.5 g, 58%. Mass spec (FD) 253. Calculated for C15H12N2S: C, 71.40; H, 4.79, N, 11.10. Found: C, 1.12; H, 4.93 N, 10.88.

reactant | 4-(4-nitrophenylthio)quinoline | 17.0 mmoles, 4.9 g | [N+](=O)([O-])C1=CC=C(C=C1)SC1=CC=NC2=CC=CC=C12 | C15H10N2O2S
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | Pd/C | 5 g | [Pd] | Pd
product | 4-(4-aminophenylthio)quinoline | 2.5 g, 58% | NC1=CC=C(C=C1)SC1=CC=NC2=CC=CC=C12 | C15H12N2S
